### PR TITLE
feat(RingTheory/PrimaryDecomposition): PIR of Noetherian under jacobson condition

### PR DESCRIPTION
**Pull request by pechersky**
---

- [x] depends on: #17634

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/JacobsonIdeal.lean [hunk 1]
```diff
@@ -427,6 +427,30 @@ theorem isPrimary_of_isMaximal_radical [CommRing R] {I : Ideal R} (hi : IsMaxima
         exact I.sub_mem (I.mul_mem_left _ hxy) (I.mul_mem_left _ hz))
       (this ▸ id)⟩
 
+lemma isUnit_or_mem_jacobson_bot_of_dvd_isNilpotent_of_zero_divisors_mem_jacobson_bot [CommRing R]
+    {s a : R} (hsn : s ≠ 0) (hs : IsNilpotent s) (hd : a ∣ s)
+    (hj : (⊥ : Ideal R).jacobson ≤ Ideal.span {s})
+    (h0 : {x : R | ∃ y ≠ 0, y * x = 0} ⊆ (⊥ : Ideal R).jacobson) :
+    IsUnit a ∨ a ∈ (⊥ : Ideal R).jacobson := by
```
Comment (erdOne) [inline Mathlib/RingTheory/JacobsonIdeal.lean:434]: The statement of this lemma looks very awkward to me. It seems to me that `hs` implies that `s` is a zero-divisor, so `hj` and `h0` imply Jacobson radical = zero-divisors = span {s}. Since minimal primes are contained in zero-divisors, this implies that `s` is prime, which then implies `s` is irreducible which is your goal.

I would suggest having a lemma `{x : R | ∃ y ≠ 0, y * x = 0} <= nilradical R => IsPrime (nilRadical R)` instead.

File: Mathlib/RingTheory/PrimaryDecomposition.lean [hunk 2]
```diff
@@ -0,0 +1,529 @@
...
+
+lemma isMaximal_eq_of_isNilpotent {I J : Ideal R} (hN : IsNilpotent I)
+    (hI : I.IsMaximal) (hJ : J.IsMaximal) : J = I := by
+  refine (hI.eq_of_le hJ.ne_top fun x hx ↦ ?_).symm
+  obtain ⟨n, hn⟩ := isNilpotent_of_mem_isNilpotent hx hN
+  have hx' : x ^ n ∈ J := by simp [hn]
+  exact hJ.isPrime.mem_of_pow_mem _ hx'
+
+lemma _root_.IsNilpotent.eq_zero_of_eq_pow_two_of_ne_one {S : Type*} [Semiring S] {x : S}
+    (hx : IsNilpotent x) (h : x ^ 2 = x) (h' : x ≠ 1) :
```
Comment (erdOne) [inline Mathlib/RingTheory/PrimaryDecomposition.lean:172]: `h` is `IsIdempotentElem`. And I don't think `h'` is necessary.

File: Mathlib/RingTheory/PrimaryDecomposition.lean [hunk 3]
```diff
@@ -0,0 +1,529 @@
...
+
+lemma isNilpotent_of_mem_isNilpotent {x : R} {I : Ideal R} (hx : x ∈ I) (hI : IsNilpotent I) :
+    IsNilpotent x := by
+  refine hI.imp fun n ↦ ?_
+  simp only [Submodule.zero_eq_bot, Ideal.ext_iff, mem_bot]
+  intro H
+  simp [← H, Ideal.pow_mem_pow hx n]
+
+lemma isMaximal_eq_of_isNilpotent {I J : Ideal R} (hN : IsNilpotent I)
+    (hI : I.IsMaximal) (hJ : J.IsMaximal) : J = I := by
```
Comment (erdOne) [inline Mathlib/RingTheory/PrimaryDecomposition.lean:165]: I believe you only need `hJ : J.IsPrime` and `hN : I <= nilradical R`.

File: Mathlib/RingTheory/PrimaryDecomposition.lean [hunk 4]
```diff
@@ -0,0 +1,529 @@
...
+    simp only [mul_assoc, Units.mul_inv, mul_one] at this
+    rw [← this]
+    exact mul_mem_right _ _ hsy
+  · have := Nat.find_spec hk'
+    rw [span_singleton_pow, mem_span_singleton] at hsy
+    obtain ⟨y, rfl⟩ := hsy
+    exact mul_mem_right _ _ this
+
+lemma isNilpotent_of_mem_isNilpotent {x : R} {I : Ideal R} (hx : x ∈ I) (hI : IsNilpotent I) :
+    IsNilpotent x := by
```
Comment (erdOne) [inline Mathlib/RingTheory/PrimaryDecomposition.lean:158]: The statement should be rephrased as `I <= nilRadical R`.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
